US05702887
Succinimidyl 3,5-Dimethyl-4-hydroxy-benzoate
A solution of 3,5-dimethyl-4-hydroxybenzoic acid (5.0 g, 30.0 mmol) in N,N-dimethylformamide (150 ml) was cooled to 0° C. and treated with N-hydroxysuccinimide (3.45 g, 30.0 mmol) and 1,3-dicyclohexylcarbodiimide (6.81 g, 33.0 mmol). The solution was stirred under nitrogen at 0° C. for 2 hours and then at 25° C. for 16 hours. The resulting mixture was stirred with 0.5 ml of acetic acid for 15 minutes, and then filtered to remove the insoluble urea. The filtrate was evaporated under reduced pressure to dryness. The dried material was washed with diethyl ether (100 ml) and suspended in boiling ethyl acetate (200 ml). The suspension, when hot, was filtered to remove insoluble impurities. The filtrate was concentrated and suspended in hot ethyl acetate/methylene chloride (1:1, 200 ml) and cooled to give an off-white powder in 2.91 g (37%). Rf 0.6 (silica gel, diethyl ether).

reactant | 3,5-dimethyl-4-hydroxybenzoic acid | 30.0 mmol, 5.0 g | CC=1C=C(C(=O)O)C=C(C1O)C | C9H10O3
reactant | N-hydroxysuccinimide | 30.0 mmol, 3.45 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 33.0 mmol, 6.81 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | Succinimidyl 3,5-Dimethyl-4-hydroxy-benzoate | CC=1C=C(C(=O)ON2C(CCC2=O)=O)C=C(C1O)C | C13H13NO5
